US07435837B2
Treatment of (±)-[7-(4-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (2.1 g, 5.11 mmol) with sodium azide (1.33 g, 20.96 mmol) generally according to the procedure described for Intermediate 98 afforded (±)-2-(azidomethyl)-7-(4-methoxyphenyl)-2,3-dihydro-1-benzofuran. Treatment of the azide with palladium on carbon (0.125 g, 10 wt. %) generally according to the procedure described for Example 1 provided 0.860 g (58%) of (±)-1-[7-(4-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp 176-178° C.; Anal. calcd. for C16H17NO2HCl: C, 65.86; H, 6.22; N, 4.80. Found: C, 65.02; H, 6.13; N, 4.57.

reactant | (±)-[7-(4-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 5.11 mmol, 2.1 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=CC=C(C=C2)OC | C23H22O5S
reactant | sodium azide | 20.96 mmol, 1.33 g | [N-]=[N+]=[N-].[Na+]
reactant | (±)-2-(azidomethyl)-7-(4-methoxyphenyl)-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C=CC=C2C2=CC=C(C=C2)OC | C16H15N3O2
reactant | azide | [N-]=[N+]=[N-]
catalyst | palladium on carbon | 0.125 g | [Pd] | Pd
product | (±)-1-[7-(4-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 0.860 g, 58% | COC1=CC=C(C=C1)C1=CC=CC=2CC(OC21)CN | C16H17NO2
